Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Sent in for weight loss, hypokalemia and orthostasis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ woman with a history of anorexia and self-harm who 
is
admitted secondary to malnutrition and low body weight. She was
first diagnosed with anorexia at the age of ___. She
spent several months at ___ Eating Disorder ___ and had an
NGT x 3 months shortly after her diagnosis. She also was at
___ for ___ year. She has had multiple prior
admissions for bradycardia, dehydration. Her most recent
admission to ___ was from ___ when she was
admitted with low body weight, orthostasis, and hypokalemia with
U-waves on ECG. She was 105.49lbs on discharge. She was
discharged to ___ Unit voluntarily where she followed-up
per her reports until ___.

She is followed weekly by her PCP  who noted ___ of weight
loss and recently developed orthostasis per reports.  

Because of her dropping body weight and her providers concern
about the patient's understanding of her health, it was
recommended she come to the ___ for further management. 

In the ___, initial VS were: 97.6 80 108/85. Her K+ whole blood
was 3.0 and she was given 40mEq K+ repletion. She was admitted 
to
medicine for further management of her anorexia. 

On arrival to the floor, she reports that after ___, 
she
fell into a pattern of sometimes eating well and trying to be
healthful but then other days having lettuce with sriracha. She
has chronic constipation and abdominal pain. She has had some
dizziness with standing too quickly but has never passed out. 
She
denies any binding.  She is frustrated and sad that she is back
in the hospital and thinks that she can deal with her anorexia 
on
her own, outside the hospital. 
 
Past Medical History:
Anorexia 
s/p BKA at age ___ for congenital lower leg deformity
Chronic abdominal pain
Constipation
History of self-harm behaviors
Burns on stomach, possibly self-inflicted with heating pad
 
Social History:
___
Family History:
patient is adopted.
 
Physical Exam:
VITALS: last 24-hour vitals were reviewed.
GEN: thin young woman in NAD
HEENT: EOMI, sclerae anicteric, MMM, OP clear 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, NT, ND, NABS
MSK: No visible joint effusions or deformities.
DERM: No jaundice. Mottled discolored and dry skin on her belly,
which she says is a chronic reaction to her heating pad.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema
 
Pertinent Results:
ADMISSION CHEMISTRIES
___ 07:08AM BLOOD Glucose-81 UreaN-6 Creat-0.7 Na-138 
K-3.2* Cl-100 HCO3-23 AnGap-15
___ 04:45PM BLOOD Calcium-10.1 Phos-4.5 Mg-2.2

DISCHARGE CHEMISTRIES
___ 07:15AM BLOOD Glucose-82 UreaN-11 Creat-0.6 Na-141 
K-4.4 Cl-103 HCO3-24 AnGap-14
___ 07:15AM BLOOD Phos-4.7*
 
Brief Hospital Course:
___ woman admitted with anorexia nervosa and severe
protein-calorie malnutrition. 

#Anorexia nervosa: 
#Moderate protein-calorie malnutrition. 
   Her weight is less than 75% ideal body weight. She was 
orthostatic and hypokalemic on admission, but this has resolved 
with minimal repletion of electrolytes. Phosphorous has been 
totally stable after four days of adequate feedings and 
prophylactic oral supplementation. She was also given 
multivitamin with minerals. 
   She took meals on our eating disorder protocol. She had been 
doing well at first, and ate 100% of her first 8 meals. At the 
end of her hospitalization, she left half a meal, citing 
abdominal pain. Her excuse for failing was quite rational, but 
the nature of our protocol is to accept no excuses. Therefore, 
the recommendation was made to start feeds by NG tube until she 
can re-demonstrate perfect adherence to voluntary feeds. She did 
not assent to this, and it was not clear whether her legal 
guardian had the authority to consent on her behalf for NG tube 
(he suspected he did not have this authority, but our hospital 
lawyer advised us that it is implicit in his guardianship per 
recent case law). She received a bed at ___ prior to 
resolution of this impasse. 
 
#Constipation, abdominal pain: 
  A chronic, ongoing issue. She takes Miralax TID and Colace BID 
at home, although unclear how much of this is appropriate 
treatment of constipation and how much is part of her disorder 
(nonetheless, she has not been noted to be running back and 
forth from the bathroom).

#CONTACT: Father ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Polyethylene Glycol 17 g PO TID 
2. Probiotic 
3. Vitamin D ___ UNIT PO DAILY 
4. FoLIC Acid 1 mg PO BID 
5. OLANZapine 5 mg PO QHS 
6. TraZODone 200 mg PO QHS 
7. Meladox (melatonin) 10 mg oral QHS 
8. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  Thiamine 100 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  FoLIC Acid 1 mg PO BID  
5.  Meladox (melatonin) 10 mg oral QHS  
6.  OLANZapine 5 mg PO QHS  
7.  Polyethylene Glycol 17 g PO TID  
8.  Probiotic 
9.  TraZODone 200 mg PO QHS  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Anorexia nervosa

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You are being discharged to ___ to continue working on 
improving your food intake and nutrition. We wish you the best 
of luck with your ongoing recovery. 
 
Followup Instructions:
___